US07291633B2
0.5 mmol of methylamine and 4.13 mmol of MnO2 are added to a solution of 0.4 mmol of 5-hydroxy-1H-indole in 3 ml of DMF, and the mixture is stirred at room temperature for 18 hours. The suspension is filtered through Celite and subjected to conventional work-up, giving 6H-oxazolo-[4,5-e]indole; ESI 159.

reactant | methylamine | 0.5 mmol | CN | CH5N
reactant | 5-hydroxy-1H-indole | 0.4 mmol | OC=1C=C2C=CNC2=CC1 | C8H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
catalyst | MnO2 | 4.13 mmol | O=[Mn]=O
product | 6H-oxazolo-[4,5-e]indole | N1=COC=2C1=C1C=CNC1=CC2 | C9H6N2O
